US07807708B2
In a manner similar to that of Example 2b, by reacting 660 mg of ethyl 4′-[3-(tert-butyldimethylsilanyloxy)propoxy]-4″-diethylamino-3″-ethyl[1,1′;3′,1″]terphenyl-4-carboxylate (1.1 mmol) in 25 mL of tetrahydrofuran with 1.2 mL of 1M tetrabutylammonium fluoride. 280 mg of ethyl 4″-diethylamino-3″-ethyl-4′-(3-hydroxypropoxy)-[1,1′;3′,1″]terphenyl-4-carboxylate are obtained (yield=52%).

reactant | ethyl 4′-[3-(tert-butyldimethylsilanyloxy)propoxy]-4″-diethylamino-3″-ethyl[1,1′;3′,1″]terphenyl-4-carboxylate | 1.1 mmol, 660 mg | [Si](C)(C)(C(C)(C)C)OCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC(=C(C=C1)N(CC)CC)CC | C36H51NO4Si
reactant | tetrabutylammonium fluoride | 1M, 1.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | ethyl 4″-diethylamino-3″-ethyl-4′-(3-hydroxypropoxy)-[1,1′;3′,1″]terphenyl-4-carboxylate | 280 mg, yield=52% | C(C)N(C1=C(C=C(C=C1)C=1C=C(C=CC1OCCCO)C1=CC=C(C=C1)C(=O)OCC)CC)CC | C30H37NO4
